US07459562B2
B) 6-(4-Amino-2-fluorophenoxy)-N-(4-(benzyloxy)phenyl)pyrimidin-4-amine
A mixture of N-(4-(6-(4-(benzyloxy)phenylamino)pyrimidin-4-yloxy)-3-fluorophenyl)acetamide (150 mg, 0.34 mmol), 6 M HCl (0.5 mL) and MeOH (3 mL) was heated at reflux for 2 h. The mixture was concentrated to remove the MeOH and the residue treated with saturated NaHCO3 solution and extracted with EtOAc. The organic phase was dried (MgSO4) and concentrated in vacuo to give the title compound (123 mg, 90%) as a pink solid. 1H NMR (DMSO-d6): δ 9.37 (s, 1H), 8.24 (s, 1H), 7.46-7.31 (m, 7H), 6.99-6.92 (m, 3H), 6.48 (dd, 1H, J=12.5, 2.7 Hz), 6.39 (dd, 1H, J=8.6, 2.7 Hz), 5.97 (s, 1H), 5.39 (br s, 2H), 5.08 (s, 2H); MS(ESI+) m/z 403.09 (M+H)+.

reactant | N-(4-(6-(4-(benzyloxy)phenylamino)pyrimidin-4-yloxy)-3-fluorophenyl)acetamide | 0.34 mmol, 150 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=CC(=NC=N1)OC1=C(C=C(C=C1)NC(C)=O)F | C25H21FN4O3
reactant | HCl | 6 M, 0.5 mL | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | 6-(4-Amino-2-fluorophenoxy)-N-(4-(benzyloxy)phenyl)pyrimidin-4-amine | 123 mg, 90% | NC1=CC(=C(OC2=CC(=NC=N2)NC2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1)F | C23H19FN4O2
